US05395992
The organic phase was first rapidly distilled in order to remove the catalyst from it, then was rectified, with 47.0 g (0.276 mol) of 1,2,9,10-diepoxydecane, with a yield of 54%; 1.96 g of unreacted 1,9-decadiene (3%); and 23.0 g of 1,2-epoxy-9-decene (29%) being obtained.

reactant | 1,2,9,10-diepoxydecane | 0.276 mol, 47.0 g | C1C(O1)CCCCCCC2CO2 | C10H18O2
reactant | 1,9-decadiene | 1.96 g | C=CCCCCCCC=C | C10H18
product | 1,2-epoxy-9-decene | 23.0 g, 29% | O1CC1CCCCCCC=C | C10H18O
